US03950393
1.53 gm of 2-amino-3-bromo-N,N-diethyl-5-methyl-benzylamine hydrochloride were dissolved in 50 ml of acetic acid anhydride at 75°C. The solution was evaporated to dryness in vacuo, and the residue was recrystallized from ethanol, yielding 2-acetamino-3-bromo-N,N-diethyl-5-methyl-benzylamine hydrochloride, m.p. 170°-172°C.

reactant | 2-amino-3-bromo-N,N-diethyl-5-methyl-benzylamine hydrochloride | 1.53 gm | Cl.NC1=C(CN(CC)CC)C=C(C=C1Br)C
reactant | acetic acid anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamino-3-bromo-N,N-diethyl-5-methyl-benzylamine hydrochloride | Cl.N(C(=O)C)C1=C(CN(CC)CC)C=C(C=C1Br)C | InChI=1S/C14H21BrN2O.ClH/c1-5-17(6-2)9-12-7-10(3)8-13(15)14(12)16-11(4)18;/h7-8H,5-6,9H2,1-4H3,(H,16,18);1H
